US07514435B2
A solution of 2-(2-bromoethoxy)-4-fluoro-1-nitrobenzene (160 mg, 0.6 mmol) in 20 mL acetonitrile under a nitrogen atmosphere was treated with potassium carbonate (360 mg, 2.6 mmol) and morpholine (0.3 mL, 3.4 mmol). The reaction mixture was heated to 70° C. for three hours and then filtered and concentrated. The residue was purified by flash chromatography (SiO2, 100% ethyl acetate/hexane) to give 4-(2-(5-morpholino-2-nitrophenoxy)ethyl)morpholine (50 mg, 25%). 1HNMR (CDCl3) δ 7.99 (m, 1H), 6.45 (m, 1H), 6.35 (s, 1H), 4.21 (t, 2H, J=4.0 Hz), 3.85 (t, 4H, J=4.0 Hz), 3.72 (t, 4H, J=4.0 Hz), 3.33 (t, 4H, J=4.0 Hz), 2.89 (t, 2H, J=4.0 Hz), 2.63 (t, 4H, J=4.0 Hz).

reactant | 2-(2-bromoethoxy)-4-fluoro-1-nitrobenzene | 0.6 mmol, 160 mg | BrCCOC1=C(C=CC(=C1)F)[N+](=O)[O-] | C8H7BrFNO3
reactant | potassium carbonate | 2.6 mmol, 360 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 3.4 mmol, 0.3 mL | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-(2-(5-morpholino-2-nitrophenoxy)ethyl)morpholine | 50 mg, 25% | O1CCN(CC1)C=1C=CC(=C(OCCN2CCOCC2)C1)[N+](=O)[O-] | C16H23N3O5
